US08048878B2
Diethyl cyanophosphonate (3.14 mL) was added to a solution of methyl (2R,6S)-6-(3,4-difluorophenyl)piperidine-2-carboxylate (1.61 g), vinylacetic acid (1.78 mL), and triethylamine (5.27 mL) in DMF (40 mL) at 0° C., and the reaction solution was stirred at room temperature for five hours. Ethyl acetate and 0.5 N hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with saturated sodium bicarbonate water and brine, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain methyl (2R,6S)-1-(3-butenoyl)-6-(3,4-difluorophenyl)piperidine-2-carboxylate. Lithium borohydride (315 mg) was added to a solution of methyl (2R,6S)-1-(3-butenoyl)-6-(3,4-difluorophenyl)piperidine-2-carboxylate in THF (40 mL) at 0° C., and the reaction solution was stirred at 0° C. for one hour and at room temperature for 5.5 hours. The reaction solution was added to a mixed solution of a cooled ammonium chloride solution in ethyl acetate, and the mixture was stirred at room temperature for 20 minutes. The organic layer was separated, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1-[(2S,6R)-2-(3,4-difluorophenyl)-6-(hydroxymethyl)piperidin-1-yl]-(3-buten)-1-one. DMSO (0.92 mL) was added to a solution of oxalyl chloride (0.56 mL) in dichloromethane (30 mL) in a nitrogen atmosphere at −78° C. over five minutes, and the reaction solution was stirred at −78° C. for 10 minutes. A solution of 1-[(2S,6R)-2-(3,4-difluorophenyl)-6-(hydroxymethyl)piperidin-1-yl]-(3-buten)-1-one in dichloromethane (7 mL) was added to the reaction solution at −78° C. over 20 minutes, and the reaction solution was stirred at −78° C. for 20 minutes. Triethylamine (2.7 mL) was added to the reaction solution at −78° C. over 10 minutes, and then the reaction solution was stirred at −60° C. for 30 minutes. The reaction solution was quenched with a saturated ammonium chloride solution at −60° C. and heated to room temperature. Then, ethyl acetate and 0.5 N hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with water and brine, dried over magnesium sulfate, and then concentrated under reduced pressure. Trimethyl phosphonoacetate (1.06 mL) was added to a mixed solution of 60% sodium hydride (161 mg) in THF (20 mL)-DMF (4 mL) at 0° C., and the reaction solution was stirred at room temperature for 30 minutes. A solution of the residue obtained above in THF (3 mL) was added to the reaction solution at 0° C., and the reaction solution was stirred at room temperature for 30 minutes. The reaction solution was added to a cooled ammonium chloride solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain methyl (E)-3-[(2R,6S)-1-(3-butenoyl)-6-(3,4-difluorophenyl)piperidin-2-yl]acrylate and methyl (Z)-3-[(2R,6S)-1-(3-butenoyl)-6-(3,4-difluorophenyl)piperidin-2-yl]acrylate. A solution of a mixture of methyl (E)-3-[(2R,6S)-1-(3-butenoyl)-6-(3,4-difluorophenyl)piperidin-2-yl]acrylate with methyl (Z)-3-[(2R,6S)-1-(3-butenoyl)-6-(3,4-difluorophenyl)piperidin-2-yl]acrylate and Grubbs catalyst 2nd generation (187 mg) in methylene chloride (140 mL) was heated under reflux in a nitrogen atmosphere for three hours. The reaction solution was left to cool to room temperature. Then, triethylamine (0.30 mL) was added to the reaction solution, and the mixture was stirred at room temperature for 10 minutes and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 418 mg of the title compound. The property value of the compound is as follows.

reactant | Diethyl cyanophosphonate | 3.14 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | methyl (2R,6S)-6-(3,4-difluorophenyl)piperidine-2-carboxylate | 1.61 g | FC=1C=C(C=CC1F)[C@@H]1CCC[C@@H](N1)C(=O)OC | C13H15F2NO2
reactant | vinylacetic acid | 1.78 mL | C(=C)CC(=O)O | C4H6O2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5.27 mL | C(C)N(CC)CC | C6H15N
product | methyl (2R,6S)-1-(3-butenoyl)-6-(3,4-difluorophenyl)piperidine-2-carboxylate | C(CC=C)(=O)N1[C@H](CCC[C@H]1C1=CC(=C(C=C1)F)F)C(=O)OC | C17H19F2NO3
